US04101662
2-(p-Fluorophenyl)-2-{3-[4-(p-fluoro-α-hydroxybenzyl)piperidino]propyl}-1,3-dioxolane
A mixture of 3.78 g. (0.1 mole) of sodium borohydride in 25 ml. of anhydrous ethanol was stirred at room temperature. A solution of 8.16 g. (0.02 mole) of 2-(p-fluorophenyl)-2-{3-[4-(p-fluorobenzoyl)piperidino]propyl}-1,3-dioxolane in 10 ml. of anhydrous ethanol was slowly added dropwise so as to maintain a controlled evolution of gas. After the addition was complete the mixture was allowed to stir at room temperature for 16 hr. A large excess of water was added and the mixture was extracted several times with benzene. The benzene extracts were dried with anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and a glass-like residue was obtained. The residue was dissolved in benzene and placed on a magnesium silicate column. Using a benzene-acetone gradient solution, the product was obtained. Recrystallization of the solid product from methanol-isooctane gave 6.5 g. (78%) of white solid melting at 114°-116° C.

reactant | sodium borohydride | 0.1 mole | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | 2-(p-fluorophenyl)-2-{3-[4-(p-fluorobenzoyl)piperidino]propyl}-1,3-dioxolane | 0.02 mole | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C24H27F2NO3
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene acetone | C1=CC=CC=C1.CC(=O)C
solvent | water | O | H2O
product | 2-(p-Fluorophenyl)-2-{3-[4-(p-fluoro-α-hydroxybenzyl)piperidino]propyl}-1,3-dioxolane | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)O | C24H29F2NO3
